US04298529
Ethyl orthoformate (1.71 g), "Amberlist 15" (trademark) (200 mg) and ethyl 2-methoxyimino-3-oxobutyrate (syn isomer, 0.5 g) in dry ethanol (2 ml) were treated in a similar manner to that of Example 8 (1) to give ethyl 2-methoxyimino-3,3-diethoxybutyrate (syn isomer, 0.35 g).

reactant | Ethyl orthoformate | 1.71 g | C(OCC)([O-])[O-]
reactant | ethyl 2-methoxyimino-3-oxobutyrate | 0.5 g | CON=C(C(=O)OCC)C(C)=O | C7H11NO4
reactant | ethanol | 2 ml | C(C)O | C2H6O
product | ethyl 2-methoxyimino-3,3-diethoxybutyrate | 0.35 g | CON=C(C(=O)OCC)C(C)(OCC)OCC | C11H21NO5
